US08530470B2
TSTU (429 mg, 1.34 mmol) was added in one portion to a stirred suspension of 8-[(2R)-1-(3-fluorophenyl)pyrrolidin-2-yl]-2-morpholino-4-oxo-chromene-6-carboxylic acid (488 mg, 1.11 mmol, >98% enantiomeric purity), dimethylamine hydrochloride (127 mg, 1.56 mmol) and DIPEA (0.582 mL, 3.34 mmol) dissolved in DCM (5 mL) at room temperature under nitrogen. The resulting suspension was stirred at room temperature for 20 min. The reaction mixture was quenched with water and extracted with DCM (1×40 mL). The organic phase was dried over MgSO4 and concentrated to afford the crude product as a yellow foam. The crude product was purified by flash chromatography on silica gel eluting with 0 to 10% MeOH in EtAc. The solvent was evaporated to dryness, the foam was triturated in diethyl ether (10 mL), the resulting solid was filtered and dried under reduced pressure to afford 8-[(2R)-(1-(3-fluorophenyl)pyrrolidin-2-yl]-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (276 mg, 53%) as a yellow solid.

reactant | TSTU | 1.34 mmol, 429 mg | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
reactant | 8-[(2R)-1-(3-fluorophenyl)pyrrolidin-2-yl]-2-morpholino-4-oxo-chromene-6-carboxylic acid | 1.11 mmol, 488 mg | FC=1C=C(C=CC1)N1[C@H](CCC1)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)O | C24H23FN2O5
reactant | dimethylamine hydrochloride | 1.56 mmol, 127 mg | Cl.CNC
reactant | DIPEA | 3.34 mmol, 0.582 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (2R)-(1-(3-fluorophenyl)pyrrolidin-2-yl]-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 276 mg, 53% | FC=1C=C(C=CC1)N1[C@H](CCC1)C1=C(OC2=CC=C(C=C2C1=O)C(=O)N(C)C)N1CCOCC1 | C26H28FN3O4
